### PR TITLE
refactor: more golfing using `Player`

### PR DESCRIPTION
**Pull request by astrainfinita**
Most APIs of `Surreal` have not been golfed yet.

- [x] depends on: #202

### CODE REVIEW

File: CombinatorialGames/Game/Functor.lean [hunk 1]
```diff
@@ -74,12 +88,25 @@ instance : Mul Player where
...
+  one := left
+  inv := id
+  mul_assoc := by decide
+  mul_comm := by decide
+  one_mul := by decide
+  mul_one := by decide
+  inv_mul_cancel := by decide
+
+@[simp] lemma one_eq_left : 1 = left := rfl
+@[simp] lemma inv_eq_self (p : Player) : p⁻¹ = p := rfl
```
Comment (alreadydone) [inline CombinatorialGames/Game/Functor.lean:118]: Are these gonna be used for Surreal?

File: CombinatorialGames/Game/Concrete.lean [hunk 2]
```diff
@@ -38,56 +38,44 @@ variable {α : Type v}
...
-  a ∈ c.leftMoves b ∪ c.rightMoves b
+  a ∈ c.moves left b ∪ c.moves right b
 
-theorem IsOption.of_mem_leftMoves {a b : α} : a ∈ c.leftMoves b → c.IsOption a b := .inl
-theorem IsOption.of_mem_rightMoves {a b : α} : a ∈ c.rightMoves b → c.IsOption a b := .inr
+theorem IsOption.of_mem_moves {p} {a b : α} : a ∈ c.moves p b → c.IsOption a b :=
+  p.rec .inl .inr
 
-variable [∀ a, Small.{u} (c.leftMoves a)] [∀ a, Small.{u} (c.rightMoves a)]
+variable [∀ a, Small.{u} (c.moves left a)] [∀ a, Small.{u} (c.moves right a)]
```
Comment (alreadydone) [inline CombinatorialGames/Game/Concrete.lean]: Should this quantify over `Player`

File: CombinatorialGames/Game/Functor.lean (hunk 1 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/Functor.lean:118]: These were written after proving that `Player` is a `CommGroup`. I think they will never actually be used and can be deleted.

Comment (alreadydone) [reply CombinatorialGames/Game/Functor.lean:118]: Yeah I'm actually referring to the Mul and CommGroup instances. GitHub is displaying this weirdly but it appears normal in the email notification:
image

I didn't understand what's the point of putting a multiplication on Player, but then I realized in [LGame.leftMoves_mul](https://vihdzp.github.io/combinatorial-games/CombinatorialGames/Game/Loopy/Basic.html#LGame.leftMoves_mul)/rightMoves_mul we are taking the union over pairs that multiply to `left`/`right` respectively. (and multiplication of games is mainly useful for Surreals)

Comment (astrainfinita) [reply CombinatorialGames/Game/Functor.lean:118]: The first place it was used might be `IGame.mulOption_mem_moves_mul`.

File: CombinatorialGames/Game/Concrete.lean (hunk 2 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/Concrete.lean]: Lean cannot synthesize `[∀ p, ... (c.moves p)]` from `[... (c.moves left)]` and `[... (c.moves right)]`. Always using `left` and `right` may make things easier.

File: CombinatorialGames/Game/Basic.lean [hunk 3]
```diff
@@ -94,10 +94,10 @@ instance : PartialOrder Game := inferInstanceAs (PartialOrder (Antisymmetrizatio
 instance : Inhabited Game := ⟨0⟩
 
 instance : AddCommGroupWithOne Game where
-  zero_add := by rintro ⟨x⟩; change mk (0 + _) = mk _; rw [zero_add]
-  add_zero := by rintro ⟨x⟩; change mk (_ + 0) = mk _; rw [add_zero]
-  add_comm := by rintro ⟨x⟩ ⟨y⟩; change mk (_ + _) = mk (_ + _); rw [add_comm]
-  add_assoc := by rintro ⟨x⟩ ⟨y⟩ ⟨z⟩; change mk (_ + _ + _) = mk (_ + (_ + _)); rw [add_assoc]
+  zero_add := by rintro ⟨x⟩; exact congr(mk $(zero_add _))
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean:97]: What's this syntax? Never seen that before.

File: CombinatorialGames/Game/Basic.lean [hunk 4]
```diff
@@ -146,32 +146,36 @@ instance : NeZero (1 : Game) where
 instance : Nontrivial Game := ⟨_, _, zero_ne_one⟩
 instance : CharZero Game := AddMonoidWithOne.toCharZero
 
-theorem mk_mul_add (x y z : IGame) : mk (x * (y + z)) = mk (x * y) + mk (x * z) := by
-  rw [← mk_add, add_eq (x * y), mul_eq]
-  simp only [leftMoves_add, rightMoves_add, leftMoves_mul, rightMoves_mul, prod_union,
-    union_assoc, image_image, image_union, mk_ofSets]
+theorem mk_mul_add (x y z : IGame) :
+    mk (x * (y + z)) = mk (x * y) + mk (x * z) := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean]: Small diff minimizing
```suggestion
theorem mk_mul_add (x y z : IGame) : mk (x * (y + z)) = mk (x * y) + mk (x * z) := by
```

File: CombinatorialGames/Game/Basic.lean [hunk 5]
```diff
@@ -146,32 +146,36 @@ instance : NeZero (1 : Game) where
...
+      exists_and_left, exists_exists_and_eq_and]
+    iterate 2 (congr! 2; rw [and_congr_right_iff]; intros)
+    congr! 1
+    rw [mk_mul_add, mk_mul_add, mk_mul_add]
+    abel
 termination_by (x, y, z)
 decreasing_by igame_wf
 
-theorem mk_mul_sub (x y z : IGame) : mk (x * (y - z)) = mk (x * y) - mk (x * z) := by
+theorem mk_mul_sub (x y z : IGame) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean]: Same here and below. Changing indentation like this just makes the PR bigger for no reason. (Unless you're fixing something I'm not aware of)

File: CombinatorialGames/Game/Concrete.lean [hunk 6]
```diff
@@ -38,60 +38,52 @@ variable {α : Type v}
 You can use `ConcreteGame.toLGame` and `ConcreteGame.toIGame` to turn this structure into the
 appropriate game type. -/
 structure ConcreteGame (α : Type v) : Type v where
```
Comment (vihdzp) [inline CombinatorialGames/Game/Concrete.lean]: This stuff about `ConcreteGame` seems to me like it's more of a refactor, and should go in a separate PR.

File: CombinatorialGames/Game/Functor.lean [hunk 7]
```diff
@@ -56,6 +58,15 @@ lemma apply_cases {α β : Sort*} (f : α → β) (l r : α) (p : Player) :
     f (cases l r p) = cases (f l) (f r) p := by
   cases p <;> rfl
 
+@[simp]
+theorem ofSets_inj {α : Sort*} (l₁ r₁ : α) (l₂ r₂ : α) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Functor.lean]:
```suggestion
theorem cases_inj {α : Sort*} {l₁ r₁ l₂ r₂ : α} :
```

File: CombinatorialGames/Game/Functor.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Functor.lean:118]: I think having multiplication on `Player` is a smart idea. Though perhaps there should be a docstring explaining the motivation. Not sure about the `CommGroup` instance but I guess it can't hurt.

File: CombinatorialGames/Game/Loopy/Basic.lean [hunk 8]
```diff
@@ -931,232 +782,126 @@ theorem map_mulOption (b x y) :
...
-  ext1 x
-  simp_rw [Function.comp_apply, rightMoves, map, Multiset.iUnion_map, image_iUnion]
-  congr! with y hy
-  simp_rw [← Multiset.map_erase_of_mem _ _ hy, ← Function.comp_apply (g := Prod.map id _),
-    rightMovesSingle_comp_prodMap hlf hrf hlg hrg]
+    movesSingle_comp_prodMap hf hg]
   aesop
 
+variable (p)
 variable
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/Basic.lean]:
```suggestion
```

**Review by vihdzp — COMMENTED** [review]
I would have preferred if this were a sequence of smaller PRs. But most of the material here seems good (and I'm really happy with how you were able to trim some of the heaviest proofs of the repo!)

File: CombinatorialGames/Game/Basic.lean (hunk 3 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/Basic.lean:97]: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/TermCongr.html#Mathlib.Tactic.TermCongr.termCongr

File: CombinatorialGames/Game/Basic.lean (hunk 5 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/Basic.lean]: I renamed something to avoid a name conflict. Later, I reverted those changes but forgot about these line breaks.

File: CombinatorialGames/Game/Concrete.lean [hunk 9]
```diff
@@ -44,7 +44,11 @@ structure ConcreteGame (α : Type v) : Type v where
   rightMoves : α → Set α
 
 namespace ConcreteGame
-variable {c : ConcreteGame.{v} α}
+variable {c : ConcreteGame.{v} α} {p : Player}
+
+variable (c p) in
+def moves : α → Set α :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Concrete.lean:50]: This is missing a docstring (but I get that this is a temporary fix before #205, so I'll let it slide).

**Review by vihdzp — APPROVED** [review]
